US09328112B2
tert-butyl 3-(((trifluoromethyl)sulfonyl)oxy)-9-azabicyclo[3.3.1]non-3-ene-9-carboxylate
To a stirred solution of sodium bis(trimethylsilyl)amide (2.0M in tetrahydrofuran) (11.49 ml, 22.98 mmol) in tetrahydrofuran (30 mL) at −78° C. was added slowly tert-butyl 3-oxo-9-azabicyclo[3.3.1]nonane-9-carboxylate (5.0 g, 20.89 mmol) in tetrahydrofuran (12 mL). The reaction mixture was stirred for 30 minutes and was treated over 15 minutes with a solution of 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide (8.21 g, 22.98 mmol) in tetrahydrofuran (20 mL). The mixture was stirred at −78° C. for 1.5 hours, and was allowed to warm to room temperature for 1 hour. The reaction mixture was quenched by the addition of water (7.5 mL) and extracted with ethyl acetate (three times with 100 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography on Analogix IntelliFlash280 eluting with 0 to 40% ethyl acetate/hexanes to provide the title compound. 1H NMR (500 MHz, DMSO-d6) δ 1.40 (s, 9H), 1.47-1.78 (m, 6H), 2.24 (d, J=18.0 Hz, 1H), 2.75 (dd, J=17.9, 7.6 Hz, 1H), 4.43 (dd, J=19.9, 7.7 Hz, 1H), 4.72 (d, J=25.1 Hz, 1H), 6.03-6.06 (m, 1H).

reactant | sodium bis(trimethylsilyl)amide | 22.98 mmol, 2.0M, 11.49 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl 3-oxo-9-azabicyclo[3.3.1]nonane-9-carboxylate | 20.89 mmol, 5.0 g | O=C1CC2CCCC(C1)N2C(=O)OC(C)(C)C | C13H21NO3
reactant | 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 22.98 mmol, 8.21 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-(((trifluoromethyl)sulfonyl)oxy)-9-azabicyclo[3.3.1]non-3-ene-9-carboxylate | FC(S(=O)(=O)OC=1CC2CCCC(C1)N2C(=O)OC(C)(C)C)(F)F | C14H20F3NO5S
